US04159331
A mixture of 5.00 g (0.0133 m) of 1-[(p-nitrophenyl)sulfonyl]-4-(o-methoxyphenyl)piperazine, 0.28 g of platinum oxide and 150 ml of chloroform is shaken under pressure in a Parr hydrogenator. After hydrogen ceases to be taken up (1 hour), the reaction mixture is filtered through a fine sintered glass funnel. The filtrate is taken to dryness and crystallized once from methanol/methylene chloride and a second time from methanol to give 1.9 g (41%) of 1-[(p-aminophenyl)sulfonyl]-4-(o-methoxyphenyl)-piperazine of melting point 230°-232° C.

reactant | 1-[(p-nitrophenyl)sulfonyl]-4-(o-methoxyphenyl)piperazine | 5.00 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C17H19N3O5S
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.28 g | [Pt]=O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(p-aminophenyl)sulfonyl]-4-(o-methoxyphenyl)-piperazine | 1.9 g, 41% | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C17H21N3O3S
